US07435837B2
Treatment of (±)-1-[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (1.42 g, 4.41 mmol) with diisopropylethylamine (0.855 g, 6.62 mmol) followed by benzyl chloroformate (0.828 g, 4.85 mmol) generally according to the procedure described for Intermediate 12 provided 1.58 g (85%) of (±)-benzyl {[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate as a colorless oil. Anal. calcd. for C25H25NO5: C, 71.58; H, 6.01; N, 3.34. Found: C, 71.24; H, 5.92; N, 3.09. Chiral HPLC separation of (±)-benzyl {[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate (Chiralcel OD, ethanol) provided two fractions. Fraction 1 (Rt=5.107 min, Chiralcel OD, ethanol); Fraction 2 (Rt=6.134 min, Chiralcel OD, ethanol).

reactant | (±)-1-[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 4.41 mmol, 1.42 g | COC1=C(C=CC(=C1)OC)C1=CC=CC=2CC(OC21)CN | C17H19NO3
reactant | diisopropylethylamine | 6.62 mmol, 0.855 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 4.85 mmol, 0.828 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl {[7-(2,4-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 1.58 g, 85% | COC1=C(C=CC(=C1)OC)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C25H25NO5
